US04670042
2-(4-Methoxycarbonylmethylamino-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (2.06 g) was dissolved in a mixture of acetic acid (20 ml) and ethyl acetate (20 ml), and the resultant solution was dropwise added to a mixture of 5% aqueous acetic acid (10 ml) and iron powder (4 g) at 70° to 80° C., followed by stirring at the same temperature for 3 hours. The reaction mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The extract was washed with sodium bicarbonate solution, dried and concentrated to give 2-(3,4-dihydro-2(1H)-quinoxalinon-7-yl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (1.3 g). m.p., 208°-209° C.

reactant | 2-(4-Methoxycarbonylmethylamino-3-nitrophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 2.06 g | COC(=O)CNC1=C(C=C(C=C1)N1C(C=2CCCCC2C1=O)=O)[N+](=O)[O-] | C17H17N3O6
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | iron | 4 g | [Fe] | Fe
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-(3,4-dihydro-2(1H)-quinoxalinon-7-yl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 1.3 g | N1C(CNC2=CC=C(C=C12)N1C(C=2CCCCC2C1=O)=O)=O | C16H15N3O3
